US07781438B2
Preparation of (2-Chloro-7-formyl-naphthalen-1-yl)-acetic acid ethyl ester
(2-Chloro-7-cyano-naphthalen-1-yl)-acetic acid ethyl ester (5.53 g, 20.20 mmol) is dissolved in a mixture of water (70 ml), pyridine (130 ml) and glacial acetic acid (70 ml). Sodium hypophosphite (17.13 g, 161.62 mmol) and Raney nickel (13 g) are added at RT. The reaction mixture is heated to 100° C. for 1 h. TLC analysis indicates complete consumption of starting material. The reaction mixture is cooled to RT, filtered through Celite and concentrated on a rotary evaporator. The residue is taken up in 2 M aqueous HCl. Extraction with EtOAc, removal of solvent and purification by FCC (hexane/EtOAc 5:1) yields the title compound. 1H NMR (CDCl3, 400 MHz): δ 1.28 (t, J=8.8 Hz, 3H), 4.22 (q, J=8.8 Hz, 2H), 4.39 (s, 2H), 7.68 (d, J=9.9 Hz, 1H), 7.83 (d, J=9.9 Hz, 1H), 7.95-8.03 (m, 2H), 8.48 (s, 1H), 10.2 (s, 1H). ES−-MS: 275.3, 277.3 [M+H]+.

reactant | (2-Chloro-7-cyano-naphthalen-1-yl)-acetic acid ethyl ester | 20.20 mmol, 5.53 g | C(C)OC(CC1=C(C=CC2=CC=C(C=C12)C#N)Cl)=O | C15H12ClNO2
reactant | Sodium hypophosphite | 161.62 mmol, 17.13 g | [PH2](=O)[O-].[Na+]
solvent | water | 70 ml | O | H2O
solvent | pyridine | 130 ml | N1=CC=CC=C1 | C5H5N
solvent | acetic acid | 70 ml | C(C)(=O)O | C2H4O2
catalyst | Raney nickel | 13 g | [Ni] | Ni
product | (2-Chloro-7-formyl-naphthalen-1-yl)-acetic acid ethyl ester | C(C)OC(CC1=C(C=CC2=CC=C(C=C12)C=O)Cl)=O | C15H13ClO3
